US08207164B2
h) N-(2-(5-bromo-2-fluorophenyl)-3,3-difluoro-4-hydroxybutan-2-yl)-2-chloroacetamide
To an ice cooled solution of 3-amino-3-(5-bromo-2-fluorophenyl)-2,2-difluorobutan-1-ol (3.1 g, 10.4 mmol), in DCM (60 ml) was added aqueous Na2CO3 (2.74 g, 25.8 mmol in 7.0 mL H2O) and stirred for 10 min. Chloroacetyl chloride (0.986 ml, 11.4 mmol) was then added to the resultant reaction mixture and stirring continued for 30 min at 0° C. Upon formation of the new product by TLC analysis, K2CO3 (1.5 g, 10.4 mmol) in MeOH (17 mL) was added to the reaction mixture and stirred at rt for 30 min. The reaction mixture was diluted with DCM, separated the organic layer and washed successively with water and brine solution, dried over anhydrous Na2SO4 and concentrated under reduced pressure to furnish title compound as a colorless gum. Yield=3.3 g (78.5%).

reactant | 3-amino-3-(5-bromo-2-fluorophenyl)-2,2-difluorobutan-1-ol | 10.4 mmol, 3.1 g | NC(C(CO)(F)F)(C)C1=C(C=CC(=C1)Br)F | C10H11BrF3NO
reactant | Na2CO3 | 25.8 mmol, 7.0 mL, 2.74 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Chloroacetyl chloride | 11.4 mmol, 0.986 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | K2CO3 | 10.4 mmol, 1.5 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DCM | 60 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | 17 mL | CO | CH4O
product | N-(2-(5-bromo-2-fluorophenyl)-3,3-difluoro-4-hydroxybutan-2-yl)-2-chloroacetamide | BrC=1C=CC(=C(C1)C(C)(C(CO)(F)F)NC(CCl)=O)F | C12H12BrClF3NO2
